US08859773B2
To a stirred solution of (5-bromo-1-isopropyl-1H-pyrazol-4-yl)methanol (10.0 g, 45.7 mmol) in dichloromethane (200 mL) was added PBr3 (6.5 mL, 68.5 mmol) at 0° C. After the addition was complete the mixture was allowed to warm to room temperature and stirred for 3 hours. The mixture was poured into ice-cold water (300 mL), shaken, separated, and then washed twice with ice-cold water (2×100 mL) and then brine (100 mL), dried over sodium sulfate, filtered and the solvent removed in vacuo to give 5-bromo-4-(bromomethyl)-1-isopropyl-1H-pyrazole (12.2 g, 95%). 1H NMR (300 MHz, CDCl3, δ): 7.58 (s, 1H), 4.64 (m, 1H), 4.35 (s, 2H), 1.43 (d, 6H).

reactant | (5-bromo-1-isopropyl-1H-pyrazol-4-yl)methanol | 45.7 mmol, 10.0 g | BrC1=C(C=NN1C(C)C)CO | C7H11BrN2O
reactant | PBr3 | 68.5 mmol, 6.5 mL | P(Br)(Br)Br | Br3P
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | 5-bromo-4-(bromomethyl)-1-isopropyl-1H-pyrazole | 12.2 g, 95% | BrC1=C(C=NN1C(C)C)CBr | C7H10Br2N2
